### PR TITLE
feat(Analysis/SpecialFunctions/Trigonometric/Basic): sin and cos of multiples of π / 3

### PR DESCRIPTION
**Pull request by mans0954**
Add results:

 - `cos_ofNat_mul_pi_div_ofNat_of_eq_sub_one` : `cos ((n - 1) * π / n) = - cos π / n`
 - `cos_ofNat_mul_pi_div_ofNat_of_eq_two_mul_sub_one` : `cos ((2 * n - 1) * π / n) = cos π / n`
 - `cos_ofNat_mul_pi_div_ofNat_of_eq_add_one` : `cos ((n + 1) * π / n) = - cos π / n` 

And similar for `sin` and `tan`.

This allows `norm_num` to prove results like:
```
example : cos (2 * π / 3) = - 1 / 2 := by
  norm_num

example : cos (4 * π / 3) = - 1 / 2 := by
  norm_num

example : cos (5 * π / 3) = 1 / 2 := by
  norm_num
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 1]
```diff
@@ -759,6 +759,21 @@ theorem cos_pi_div_three : cos (π / 3) = 1 / 2 := by
...
 
+/-- The cosine of `2 * π / 3` is `- 1 / 2`. -/
+@[simp]
+theorem cos_two_mul_pi_div_three : cos (2 * π / 3) = - 1 / 2 := by
+  rw [mul_div_assoc, cos_two_mul, cos_pi_div_three]
+  norm_num
+
+/-- The cosine of `4 * π / 3` is `- 1 / 2`. -/
+@[simp]
+lemma cos_four_mul_pi_div_three : cos (4 * π / 3) = - 1 / 2 := calc
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:770]: nit: I'm not sure this is an established style, and would recommend putting the `calc` on the next line and indenting everything below it one more level.

**Review by eric-wieser — COMMENTED** [review]
I wonder if it is a deliberate choice to only provide values of `π / n` in this file.

If we're going to break that trend, it would be good to at least add all the following cases for all the existing values of `n`:

* `(n - 1) * π / n`
* `(n + 1) * π / n`
* `(2*n - 1) * π / n`

I think you should be able to write a generic lemma for each of these, and then knock out the theorem for every value of `n` used in this file in a single line?

**Review by eric-wieser — COMMENTED** [review]
Here's a slightly more general way to prove these:
```lean
import Mathlib

namespace Real

@[simp]
theorem cos_ofNat_mul_pi_div_ofNat_of_eq_sub_one {m n} [NeZero (ofNat(n) : ℝ)]
    (h : ofNat(m) = (ofNat(n) : ℝ) - 1 := by norm_num) :
    cos (ofNat(m) * π / ofNat(n)) = - cos (π / ofNat(n)) := by
  rw [← cos_pi_sub, sub_div' (NeZero.ne _), h]
  ring_nf

@[simp]
theorem cos_ofNat_mul_pi_div_ofNat_of_eq_two_mul_sub_one {m n} [NeZero (ofNat(n) : ℝ)]
    (h : ofNat(m) = 2 * (ofNat(n) : ℝ) - 1 := by norm_num) :
    cos (ofNat(m) * π / ofNat(n)) = cos (π / ofNat(n)) := by
  rw [← cos_two_pi_sub, sub_div' (NeZero.ne _), h]
  ring_nf

@[simp]
theorem cos_ofNat_mul_pi_div_ofNat_of_eq_add_one {m n} [NeZero (ofNat(n) : ℝ)]
    (h : ofNat(m) = (ofNat(n) : ℝ) + 1 := by norm_num) :
    cos (ofNat(m) * π / ofNat(n)) = - cos (π / ofNat(n)) := by
  rw [← cos_add_pi, div_add' _ _ _ (NeZero.ne _), h]
  ring_nf

@[simp]
theorem cos_two_mul_pi_div_three : cos (2 * π / 3) = - 1 / 2 := by
  norm_num

@[simp]
theorem cos_four_mul_pi_div_three : cos (4 * π / 3) = - 1 / 2 := by
  norm_num

@[simp]
theorem cos_five_mul_pi_div_three : cos (5 * π / 3) = 1 / 2 := by
  norm_num

```

**Comment by eric-wieser** [comment]
Probably this is actually the task for a simproc

**Comment by mans0954** [comment]
@eric-wieser I've tried something like that - not sure I've quite got it right as the examples are shown as `declaration uses 'sorry'` in the editor even though there appears to be no goal to close.

**Comment by eric-wieser** [comment]
Just to check; do you need the `/ 3` cases for another PR? If so, I'm ok with merging those without the more general approach.

**Review by eric-wieser — COMMENTED** [review]
Could you add a few tests of these lemmas on concrete numerals in `MathlibTest/trigonometry.lean` or similar?

**Comment by mans0954** [comment]
> Could you add a few tests of these lemmas on concrete numerals in `MathlibTest/trigonometry.lean` or similar?

Something like this? https://github.com/leanprover-community/mathlib4/pull/25009/files#diff-3ebdd25a2f68e3839b1c32c4cbd2cb1ebc9513ab3af3f3fd6c73126d4cae3d81

**Comment by mans0954** [comment]
The linter now has a set of errors of the form:
```
/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
-- Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
Error: /home/lean/actions-runner/_work/mathlib4/mathlib4/pr-branch/Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:797:1: error: @Real.cos_ofNat_mul_pi_div_ofNat_of_eq_sub_one Left-hand side simplifies from
  Real.cos (OfNat.ofNat m * Real.pi / OfNat.ofNat n)
to
  Real.cos ((OfNat.ofNat n - 1) * Real.pi / OfNat.ofNat n)
using
  simp only [*]
Try to change the left-hand side to the simplified term!
```

If I try the suggestion, or remove the `simp` annotation, then the examples in `MathlibTest/trigonometry.lean` no longer compile.

**Comment by mans0954** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26349
